US08476434B2
Synthesis of 3,4-Dichloro-N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)benzamide
4-(2-Chloro-pyridin-3-yl)-pyrimidine (60 mg, 0.30 mmol), N-(3-amino-4-methyl-phenyl)-3,4-dichloro-benzamide (107 mg, 0.36 mmol), Pd(OAc)2 (4 mg, 0.012 mmol), rac-BINAP (8 mg, 0.012 mmol) and K2CO3 (829 mg, 6.0 mmol) in toluene (3.0 mL) were reacted overnight at 130° C. The reaction was diluted with water and extracted with EtOAc. The organic layer was dried over anhydrous Na2SO4, filter, concentrated and purified by reverse-phase HPLC (Gilson, acidic mobile phase) yielding the title compound. MS m/z=450, 452 [M]+ and [M+2]+. Calc'd for C23H17Cl2N5O: 450.33.

reactant | 4-(2-Chloro-pyridin-3-yl)-pyrimidine | 0.30 mmol, 60 mg | ClC1=NC=CC=C1C1=NC=NC=C1 | C9H6ClN3
reactant | N-(3-amino-4-methyl-phenyl)-3,4-dichloro-benzamide | 0.36 mmol, 107 mg | NC=1C=C(C=CC1C)NC(C1=CC(=C(C=C1)Cl)Cl)=O | C14H12Cl2N2O
reactant | rac-BINAP | 0.012 mmol, 8 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | K2CO3 | 6.0 mmol, 829 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 0.012 mmol, 4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3,4-Dichloro-N-(4-methyl-3-((3-(4-pyrimidinyl)-2-pyridinyl)amino)phenyl)benzamide | ClC=1C=C(C(=O)NC2=CC(=C(C=C2)C)NC2=NC=CC=C2C2=NC=NC=C2)C=CC1Cl | C23H17Cl2N5O
